US04914112
To N-methylbenzylamine (12.1 g, 0.1 mol) was added urea (6.0 g, 0.1 mol). After stirred at 118° C. for 4 h, the mixture was cooled to room temperature. The solidified mixture was ground to a powder, washed with n-hexane and recrystallized with ethyl acetate to afford N-methyl-N-benzylurea (12.3 g, 75% yield): mp 125°-129° C.

reactant | N-methylbenzylamine | 0.1 mol, 12.1 g | CNCC1=CC=CC=C1 | C8H11N
reactant | urea | 0.1 mol, 6.0 g | NC(=O)N | CH4N2O
product | N-methyl-N-benzylurea | 12.3 g, 75% yield | CN(C(=O)N)CC1=CC=CC=C1 | C9H12N2O
